US04435419
A mixture of 3-(p-tolyl)-3-pyrroline, methylene iodide, and powdered copper in a molar ration of 1:2:4 is heated in benzene for about 50 hours. Filtration and evaporation of the solution gives 1-(p-tolyl)-3-azabicyclo[3.1.0]hexane.

reactant | 3-(p-tolyl)-3-pyrroline | C1(=CC=C(C=C1)C=1CNCC1)C | C11H13N
reactant | methylene iodide | C(I)I | CH2I2
solvent | benzene | C1=CC=CC=C1 | C6H6
catalyst | copper | [Cu] | Cu
product | 1-(p-tolyl)-3-azabicyclo[3.1.0]hexane | C1(=CC=C(C=C1)C12CNCC2C1)C | C12H15N
